US04588719
5-(3-Aminopropoxy)-1-dimethylamino-1,2,3,4-tetrahydronaphthalene
4.4 ml of 99% hydrazine hydrate are added to a stirred solution of 5-(3-phthalimidopropoxy)-1-dimethylamino-1,2,3,4-tetrahydronaphthalene (26.8 g prepared in the preceding step) in absolute ethanol (270 ml). The reaction mixture is stirred and heated to reflux for 3 hours, allowed to cool, filtered and the filtrate evaporated in vacuo. The yellow residue is triturated in 5% HCl (250 ml), the suspension filtered and the solid washed with 5% HCl. The clear yellow filtrate is extracted with diethyl ether. The aqueous acidic layer is made strongly alkaline with 50% NaOH solution, resulting in an oily precipitate which is extracted with diethyl ether. The combined organic extracts are dried over sodium sulfate, filtered and the filtrate evaporated in vacuo, yielding 14.7 g of a light yellow oil identified by NMR as the desired 3-aminopropoxy compound.

reactant | hydrazine hydrate | 4.4 ml | O.NN
reactant | 5-(3-phthalimidopropoxy)-1-dimethylamino-1,2,3,4-tetrahydronaphthalene | C1(C=2C(C(N1CCCOC1=C3CCCC(C3=CC=C1)N(C)C)=O)=CC=CC2)=O | C23H26N2O3
solvent | ethanol | 270 ml | C(C)O | C2H6O
product | 5-(3-Aminopropoxy)-1-dimethylamino-1,2,3,4-tetrahydronaphthalene | 14.7 g | NCCCOC1=C2CCCC(C2=CC=C1)N(C)C | C15H24N2O
